US04489003
A mixture of 10 g (24 mmol) of tert.butyl (S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 31 g (430 mmol) of hydroxymethyl-cyclopropane and 1.80 g (8 mmol) of tetraethyl orthotitanate is stirred at 125° overnight, the solution obtained is evaporated to dryness, the residue is taken up in chloroform and stirred for 0.5 hour with 40 ml of a saturated potassium fluoride solution. The resulting emulsion is filtered through siliceous earth, the organic phase is separated, washed with water, dried over magnesium sulphate and evaporated. By recrystallization from ethyl acetate and hexane there is obtained cyclopropylmethyl (S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 135°-136°.

reactant | tert.butyl (S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 24 mmol, 10 g | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC(C)(C)C)CCC1)=O | C19H20BrN3O3
reactant | hydroxymethyl-cyclopropane | 430 mmol, 31 g | OCC1CC1 | C4H8O
catalyst | tetraethyl orthotitanate | 8 mmol, 1.80 g | CCO.CCO.CCO.CCO.[Ti]
product | cyclopropylmethyl (S)-8-bromo-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC3CC3)CCC1)=O | C19H18BrN3O3
